US04057573
Analogously to the description in Example 2, 5.5 g of 6-hydroxy-7-benzoyl-1,2,3,4-tetrahydro-naphthalene-acetic acid ethyl ester and 20 ml of 2 N sodium hydroxide solution in 250 ml of ethanol give 6-hydroxy-7-benzoyl-1,2,3,4-tetrahydro-1-naphthylacetic acid in the form of yellow crystals of melting point 118°-120° C (from ether-petroleum ether).

reactant | sodium hydroxide | 2 N, 20 ml | [OH-].[Na+]
reactant | 6-hydroxy-7-benzoyl-1,2,3,4-tetrahydro-1-naphthylacetic acid | OC=1C=C2CCCC(C2=CC1C(C1=CC=CC=C1)=O)CC(=O)O | C19H18O4
reactant | ethanol | 250 ml | C(C)O | C2H6O
product | 6-hydroxy-7-benzoyl-1,2,3,4-tetrahydro-naphthalene-acetic acid ethyl ester | 5.5 g | C(C)OC(CC1CCCC2=CC(=C(C=C12)C(C1=CC=CC=C1)=O)O)=O | C21H22O4
